US04642367
150 Grams of N-chloroacetyl-L-aspartic acid anhydride are quickly added, at -5° C., to the solution of 140 grams of methyl L-phenylalaninate in 400 ml of dichloroethane plus 200 ml of acetic acid. The mixture is stirred for 1 hour at -5° C.; the temperature is then raised, in 2 hours, to 15° C., then, in 30 minutes, to 40° C. The dichloroethane is evaporated under vacuum; 500 ml of methanol and 60 grams of thiourea are added and the mixture is refluxed for 3 hours. After cooling to 20° C., 200 ml of methanol, containing 11% (by weight) of HCl, are added, the solution is cooled to 0° C. for 1 hour, filtered and evaporated to dryness in vacuo. The residue is crystallized from 600 ml of water containing 70 g of NaCl: a very pure aspartame hydrochloride is obtained, in a 48% yield.

reactant | N-chloroacetyl-L-aspartic acid anhydride | ClCC(=O)N[C@H]1CC(=O)OC1=O | C6H6ClNO4
reactant | methyl L-phenylalaninate | 140 grams | N[C@@H](CC1=CC=CC=C1)C(=O)OC | C10H13NO2
solvent | dichloroethane | 400 ml | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | aspartame hydrochloride | 48% yield | COC(=O)[C@H](CC1=CC=CC=C1)NC(=O)[C@H](CC(=O)O)N.Cl | InChI=1S/C14H18N2O5.ClH/c1-21-14(20)11(7-9-5-3-2-4-6-9)16-13(19)10(15)8-12(17)18;/h2-6,10-11H,7-8,15H2,1H3,(H,16,19)(H,17,18);1H/t10-,11-;/m0./s1
